US05162318
To a solution of 1.09 g of 5-benzoyl-1-(4-methoxybenzyl)-2H-benzimidazol-2-one in 10 ml of dimethylsulfoxide was added at room temperature 0.27 g of 60% dispersion of sodium hydride in mineral oil. After being stirred for 30 minutes, the reaction mixture was treated with 0.48 g of chloroethyldimethylamine hydrochloride at room temperature for 2 hours and at 55° C for 3 hours, diluted with water and extracted with ethyl acetate. The ethyl acetate layer was extracted with 10% hydrogen chloride. The aqueous layer was alkalized with 20% sodium hydroxide and extracted with ethyl acetate. The ethyl acetate layer was washed with water and brine in turn and dried over anhydrous sodium sulfate. After removal of the solvent in vacuo, the residue was chromatographed on silica gel using chloroform-methanol (15:1) to afford 1.14 g of 5-benzoyl-1,3-dihydro-3-(2-dimethylaminoethyl)-1-(4-methoxybenzyl)-2H-benzimidazol-2-one.

reactant | 5-benzoyl-1-(4-methoxybenzyl)-2H-benzimidazol-2-one | 1.09 g | C(C1=CC=CC=C1)(=O)C1=CC2=C(N(C(N2)=O)CC2=CC=C(C=C2)OC)C=C1 | C22H18N2O3
reactant | sodium hydride | [H-].[Na+]
reactant | chloroethyldimethylamine hydrochloride | 0.48 g | Cl.ClCCN(C)C
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 5-benzoyl-1,3-dihydro-3-(2-dimethylaminoethyl)-1-(4-methoxybenzyl)-2H-benzimidazol-2-one | 1.14 g | C(C1=CC=CC=C1)(=O)C1=CC2=C(N(C(N2CCN(C)C)=O)CC2=CC=C(C=C2)OC)C=C1 | C26H27N3O3
